US07977331B1
To a solution of ethyl 3-cyclohexyl-1-ethoxycarbonylmethyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (463 mg, 1.34 mmol) in carbon tetrachloride (10 ml) was added N-bromosuccinimide (287 mg, 1.61 mmol), and the mixture was heated under reflux for 4 hr. The mixture was allowed to cool to room temperature and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate-5:1) to give ethyl 2-bromo-3-cyclohexyl-1-ethoxycarbonylmethyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (457 mg, yield 64%).

reactant | ethyl 3-cyclohexyl-1-ethoxycarbonylmethyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 1.34 mmol, 463 mg | C1(CCCCC1)C1=CN(C2=NC(=CC=C21)C(=O)OCC)CC(=O)OCC | C20H26N2O4
reactant | N-bromosuccinimide | 1.61 mmol, 287 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-bromo-3-cyclohexyl-1-ethoxycarbonylmethyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 457 mg, yield 64% | BrC1=C(C=2C(=NC(=CC2)C(=O)OCC)N1CC(=O)OCC)C1CCCCC1 | C20H25BrN2O4
